US06278013B1
Step c: 3-Cyano-2,4,5-trifluoro-benzoic acid
A solution of 156 g of methyl 3-cyano-2,4,5-trifluoro-benzoate in a mixture of 960 ml of glacial acetic acid, 140 ml of water and 69 ml of concentrated sulphuric acid is heated to reflux for 8 hours. The acetic acid is distilled off and the resulting residue is treaten with water. The precipitate is filtered off with suction, washed with water and dried.

reactant | methyl 3-cyano-2,4,5-trifluoro-benzoate | 156 g | C(#N)C=1C(=C(C(=O)OC)C=C(C1F)F)F | C9H4F3NO2
reactant | water | 140 ml | O | H2O
reactant | sulphuric acid | 69 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 960 ml | C(C)(=O)O | C2H4O2
product | 3-Cyano-2,4,5-trifluoro-benzoic acid | C(#N)C=1C(=C(C(=O)O)C=C(C1F)F)F | C8H2F3NO2
